US08541591B2
Production method for 3-(3-hexadecyl-1-imidazolio)-1-propanesulfonate (M-1)
12.3 g of N-hexadecylimidazole was dissolved in 80 ml of acetone, and the mixture was cooled in an ice-water bath. Into the resultant, a solution in which 5.13 g of 1,3-propanesultone was dissolved in 80 ml of acetone was dripped, and after the dripping was completed, the resultant was stirred at room temperature. After the completion of the reaction, the resultant was filtered to obtain a precipitate. The precipitate was dried under reduced pressure, whereby 15.4 g of 3-(3-hexadecyl-1-imidazolio)-1-propanesulfonate (M-1) represented by the chemical formula (M-1) was obtained.

reactant | N-hexadecylimidazole | 12.3 g | C(CCCCCCCCCCCCCCC)N1C=NC=C1 | C19H36N2
reactant | 1,3-propanesultone | 5.13 g | C1COS(=O)(=O)C1 | C3H6O3S
solvent | acetone | 80 ml | CC(=O)C | C3H6O
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | 3-(3-hexadecyl-1-imidazolio)-1-propanesulfonate | C(CCCCCCCCCCCCCCC)N1C=[N+](C=C1)CCCS(=O)(=O)[O-] | C22H42N2O3S
